US07214681B2
(E)-2-(4-Cyclopropanesulfonylphenyl)-N-(5-fluoropyridin-2-yl)-3-(tetrahydropyran-4-yl)acrylamide
TFFH (283 mg, 1.07 mmol) and DIPEA (373 μmol, 2.14 mmol) were added to a stirred solution of (E)-2-(4-cyclopropanesulfonylphenyl)-3-(tetrahydropyran-4-yl)acrylic acid (Preparation 23, 300 mg, 0.89 mmol) in anhydrous CH2Cl2 (18 mL). After 30 min, the solution was treated portionwise with 2-amino-5-fluoropyridine (200 mg, 1.78 mmol) over 30 min, before being stirred further for 16 h. Solvent evaporation and purification by RP-HPLC furnished the title compound: RTA=3.34 min; m/z (ES+)=431.2 [M+H]+.

reactant | TFFH | 1.07 mmol, 283 mg | CN(C)C(=[N+](C)C)F.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 373 μmol | CCN(C(C)C)C(C)C | C8H19N
reactant | (E)-2-(4-cyclopropanesulfonylphenyl)-3-(tetrahydropyran-4-yl)acrylic acid | 0.89 mmol, 300 mg | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)O)=C\C1CCOCC1 | C17H20O5S
reactant | 2-amino-5-fluoropyridine | 1.78 mmol, 200 mg | NC1=NC=C(C=C1)F | C5H5FN2
solvent | CH2Cl2 | 18 mL | C(Cl)Cl | CH2Cl2
product | (E)-2-(4-Cyclopropanesulfonylphenyl)-N-(5-fluoropyridin-2-yl)-3-(tetrahydropyran-4-yl)acrylamide | C1(CC1)S(=O)(=O)C1=CC=C(C=C1)/C(/C(=O)NC1=NC=C(C=C1)F)=C\C1CCOCC1 | C22H23FN2O4S
